US08278482B2
(2-Amino-2-methylpropyl)dimethylsulfonium chloride hydrochloride
A solution of (2-(benzyloxycarbonylamino)-2-methylpropyl)dimethyl-sulfonium iodide (1.20 g, 3.03 mmol) in a mixture of water (25 mL), methanol (10 mL) and acetic acid (0.4 ml, 2 equiv, 6.06 mmol) was cooled in an ice bath for 5 min, then Ag2O (0.46 g, 0.65 equiv, 1.97 mmol) was added in one portion. The black suspension immediately changed to a cream color suspension and stirred for 30 min. This suspension was filtered through a pad of Celite® and the solid was washed with water (30 mL). The filtrate was acidified to ˜pH 2 with 6 N HCl and filtered through Celite® and the residue was washed with water (50 mL). The filtrate was concentrated on a rotovap to give a yellow oil. The crude hydrochloride salt was dissolved into water (20 mL) and 10% Pd/C (300 mg) was added to the reaction in one portion followed by 6 N HCl (1 mL, 2 equiv). The flask was sealed and degassed with vacuum and flushed with hydrogen from a balloon (3×). The reaction was stirred at room temperature for 20 h. The suspension was filtered through a pad of Celite® and the solid was washed with water (2×50 mL). The solution was concentrated in vacuo to a light yellow oil which upon repeated addition and evaporation of isopropyl alcohol (3×10 mL) provided the desired compound (0.62 g, quant). 1H NMR (D2O, 400 MHz): δ 1.41 (s, 6H), 2.51 (s, 2H), 2.98 (s, 2 H). LRMS (ESI−) for C6H16NS+ (134.1); Found: 134 (M+).

reactant | (2-(benzyloxycarbonylamino)-2-methylpropyl)dimethyl-sulfonium iodide | 3.03 mmol, 1.20 g | [I-].C(C1=CC=CC=C1)OC(=O)NC(C[S+](C)C)(C)C
reactant | methanol | 10 mL | CO | CH4O
reactant | acetic acid | 6.06 mmol, 0.4 ml, 2 equiv | C(C)(=O)O | C2H4O2
reactant | HCl | 6 N, 1 mL, 2 equiv | Cl | ClH
solvent | water | 25 mL | O | H2O
catalyst | Pd/C | 300 mg | [Pd] | Pd
solvent | water | 20 mL | O | H2O
product | (2-Amino-2-methylpropyl)dimethylsulfonium chloride hydrochloride | 0.62 g | Cl.[Cl-].NC(C[S+](C)C)(C)C | InChI=1S/C6H16NS.2ClH/c1-6(2,7)5-8(3)4;;/h5,7H2,1-4H3;2*1H/q+1;;/p-1
